US06071935
4-{[1-(6,6-Dimethyl-2-oxo-bicyclo[3.1.1] hept-3-ylmethyl)-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene]-acetyl}-benzonitrile
4-{[1-(2-Hydroxy-2-hydroxymethyl-6,6-dimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene]-acetyl}-benzonitrile (540 mg, 0.914 mmol), as prepared in example 48, was dissolved in 0.1 N HCl (5 ml). To this solution was added sodium periodate (235 mg, 1.10 mmol). After stirring at ambient temperature for 16 hours, the pH of the reaction was adjusted to 8 using NaHCO3. The reaction was then partitioned between CH2Cl2 and saturated NaHCO3. The CH2Cl2 was dried over Na2SO4, filtered and concentrated under vacuum to give a golden foam which was then chromatographed on silica gel using 60% acetone in hexanes to give 331 mg of the titled compound as a brown foam: C.I. m/z 560 [M+1]; 1H NMR (CDCl3)δ 10.36 (br s, 1H), 8.48 (m, 4H), 7.94 (d, J=8.3 Hz, 2H), 7.74 (d, J=8.4 Hz, 2H), 7.14 (m, 4H), 5.49 (s, 1H), 3.46 (m, 2H), 3.29 (m, 2H), 3.09 (m, 2H), 2.52 (m, 2H), 2.24 (m, 1H), 2.18 (m, 1H), 1.49 (m, 1H), 1.29 (s, 3H), 1.19 (d, J=8.9 Hz, 1H), 0.89 (m, 1H), 0.76 (s, 3H).

reactant | 4-{[1-(2-Hydroxy-2-hydroxymethyl-6,6-dimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene]-acetyl}-benzonitrile | 0.914 mmol, 540 mg | OC1(C2C(C(CC1CN1C(NC(C1=O)(CC1=CC=NC=C1)CC1=CC=NC=C1)=CC(=O)C1=CC=C(C#N)C=C1)C2)(C)C)CO | C35H37N5O4
reactant | sodium periodate | 1.10 mmol, 235 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 0.1 N, 5 ml | Cl | ClH
product | 4-{[1-(6,6-Dimethyl-2-oxo-bicyclo[3.1.1] hept-3-ylmethyl)-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene]-acetyl}-benzonitrile | 331 mg | CC1(C2CC(C(C1C2)=O)CN2C(NC(C2=O)(CC2=CC=NC=C2)CC2=CC=NC=C2)=CC(=O)C2=CC=C(C#N)C=C2)C | C34H33N5O3
